US07737141B2
Synthesis of (1S,6R,9aR)-6-(3,4-difluorophenyl)-1-methyltetrahydro-[1,4]oxazino[3,4-c][1,4]oxazine-3,4-dione
To a solution consisting of 1-[(3R,5R)-5-(3,4-difluorophenyl)morpholine-3-yl]ethanol (424 mg) and pyridine (2 mL) in dichloromethane (8 mL) was dropwise added oxalyl chloride (417 μL) while cooling with ice. The resultant solution was stirred at the same temperature for 30 minutes. The reaction solution was diluted with water, and the organic layer was partitioned. The organic layer was then dried over magnesium sulfate. Solvent was removed by distillation under reduced pressure, and the resulting residue was purified by silica gel column chromatography (heptane/ethyl acetate 9/1→1/4), to thereby obtain the titled compound (353 mg). The physical properties of the compound were as follows.

reactant | 1-[(3R,5R)-5-(3,4-difluorophenyl)morpholine-3-yl]ethanol | 424 mg | FC=1C=C(C=CC1F)[C@@H]1COC[C@@H](N1)C(C)O | C12H15F2NO2
reactant | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
reactant | oxalyl chloride | 417 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | (1S,6R,9aR)-6-(3,4-difluorophenyl)-1-methyltetrahydro-[1,4]oxazino[3,4-c][1,4]oxazine-3,4-dione | 353 mg | FC=1C=C(C=CC1F)[C@H]1N2[C@H](COC1)[C@@H](OC(C2=O)=O)C | C14H13F2NO4
